US08183246B2
6-{[6-(2-Fluorophenyl)-5-(4-methoxyphenyl)furo[2,3-d]pyrimidin-4-yl]amino}hexanoic acid methyl ester
Add 0.22 ml of a 2 M aqueous sodium carbonate solution to a mixture of 100 mg (0.22 mmol) 6-{[6-bromo-5-(4-methoxyphenyl)furo[2,3-d]pyrimidin-4-yl]amino}hexanoic acid methyl ester and 8 mg (0.01 mmol) bis(triphenylphosphine)palladium(II) chloride in 5.0 ml DMSO. Next, add 39 mg (0.28 mmol) (2-fluorophenyl)boronic acid and stir the mixture for 15 h at 80° C. Filter the reaction mixture and purify directly by preparative RP-HPLC (gradient: water/acetonitrile). 69 mg (29% of theor.) of the desired product is obtained.

reactant | sodium carbonate | 2 M | C([O-])([O-])=O.[Na+].[Na+]
reactant | 6-{[6-bromo-5-(4-methoxyphenyl)furo[2,3-d]pyrimidin-4-yl]amino}hexanoic acid methyl ester | 0.22 mmol, 100 mg | COC(CCCCCNC=1C2=C(N=CN1)OC(=C2C2=CC=C(C=C2)OC)Br)=O | C20H22BrN3O4
reactant | (2-fluorophenyl)boronic acid | 0.28 mmol, 39 mg | FC1=C(C=CC=C1)B(O)O | C6H6BFO2
solvent | DMSO | 5.0 ml | CS(=O)C | C2H6OS
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.01 mmol, 8 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 6-{[6-(2-Fluorophenyl)-5-(4-methoxyphenyl)furo[2,3-d]pyrimidin-4-yl]amino}hexanoic acid methyl ester | COC(CCCCCNC=1C2=C(N=CN1)OC(=C2C2=CC=C(C=C2)OC)C2=C(C=CC=C2)F)=O | C26H26FN3O4
